US07652015B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{5-chloro-6-[4-(1-methyl-cyclopropanecarbonyl)-piperazin-1-yl]-pyridin-3-yl}-urea
Over a solution of 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(5-chloro-6-piperazin-1-yl-pyridin-3-yl)-urea hydrochloride (1.6 mmol, 0.7 g), in 5 mL of CH2Cl2 add 1-methyl-cyclopropanecarboxylic acid (1.6 mmol, 0.2 g), 1-hydroxy-1H-benzotriazol hydrate (1.8 mmol, 0.2 g), N-ethyl-N′-(3-domethylaminopropyl) carbodiimide hydrochloride (1.8 mmol, 0.3 g) and triethylamine (4.8 mmol, 0.7 mL). Stir the solution for 24 hours at room temperature. Add water and extract with CH2Cl2. Combine the organic layers and wash with saturated aq. sodium chloride solution, dry over sodium sulfate, filter, and concentrate under reduced pressure to give a residue. Subject residue to silica gel chromatography eluting with hexanes/ethyl acetate in gradient (from 20% to 80%). MS(ES+): m/z=550 [M+H].

reactant | 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(5-chloro-6-piperazin-1-yl-pyridin-3-yl)-urea hydrochloride | 1.6 mmol, 0.7 g | Cl.C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=C(C1)Cl)N1CCNCC1
reactant | 1-methyl-cyclopropanecarboxylic acid | 1.6 mmol, 0.2 g | CC1(CC1)C(=O)O | C5H8O2
reactant | 1-hydroxy-1H-benzotriazol hydrate | 1.8 mmol, 0.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 4.8 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{5-chloro-6-[4-(1-methyl-cyclopropanecarbonyl)-piperazin-1-yl]-pyridin-3-yl}-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=C(C1)Cl)N1CCN(CC1)C(=O)C1(CC1)C | C29H36ClN7O2
